US04703052
A. 2-Benzyl-5-bromo-2,3-dihydrobenzofuran
A solution of 2-benzyl-2,3-dihydrobenzofuran (1.9 g, 9 mmole) in 25 ml carbon tetrachloride was cooled to 0° C. and a solution of 0.46 ml (9 mmole) bromine in 5 ml carbon tetrachloride was added at 0° C. The mixture was warmed to room temperature, washed with water, sodium bicarbonate solution, and water again. The solvent was then evaporated to afford 2.5 g of crude product which was purified by column chromatography on silica gel, eluting with hexane to afford 1.0 g (38.5%) of the desired compound, m.p. 70°-72° C.

reactant | 2-benzyl-2,3-dihydrobenzofuran | 9 mmole, 1.9 g | C(C1=CC=CC=C1)C1OC2=C(C1)C=CC=C2 | C15H14O
reactant | bromine | 9 mmole, 0.46 ml | BrBr | Br2
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Benzyl-5-bromo-2,3-dihydrobenzofuran | 1.0 g, 38.5% | C(C1=CC=CC=C1)C1OC2=C(C1)C=C(C=C2)Br | C15H13BrO
